US05242930
(a) 2-(Diphenylhydroxymethyl)-1 -azabicyclo[2.2.1]heptan-3-one
To a stirred mixture of 1-azabicyclo[2.2.1]heptan-3-one hydrochloride (1.06 g) and benzophenone (1.82 g) in dry THF (5 ml) at -78° C. under argon was added a solution of lithium bis(trimethylsilyl)amide (18 ml, 1.0M in THF). The solution was stirred at -78° C. for 1 h, allowed to warm to room temperature and stirred for 48 h. The mixture was poured onto water and extracted with dichloromethane (×4). The combined extracts were dried (Na2SO4), evaporated in vacuo, and the residue was purified by chromatography on silica using a gradient elution of 10-30% ethyl acetate in dichloromethane to afford the title compound as a white solid:

reactant | 1-azabicyclo[2.2.1]heptan-3-one hydrochloride | 1.06 g | Cl.N12CC(C(CC1)C2)=O
reactant | benzophenone | 1.82 g | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
reactant | lithium bis(trimethylsilyl)amide | 1.0M, 18 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-(Diphenylhydroxymethyl)-1 -azabicyclo[2.2.1]heptan-3-one | C1(=CC=CC=C1)C(C1N2CCC(C1=O)C2)(O)C2=CC=CC=C2 | C19H19NO2
